US07576215B2
(4-{[{3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}(FORMYL)AMINO]METHYL}PHENYL)ACETIC ACID
A mixture of methyl {4-[({3-[3-benzoyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amino)methyl]phenyl}acetate (0.05 g, 0.09 mmol) in 5 mL of 96% of formic acid and 1 mL of acetic anhydride was heated under reflux for 1 h. Removal of solvent under reduced pressure gave a crude product that was used for the LiOH hydrolysis as described in Example 66. 35 Mg (68%) of the title compound was obtained as a pale yellow solid. MS (ESI) m/z 569; HRMS: calcd for C33H23F3N2O4, 568.1610; found (ESI, [M−H]−), 567.1543.

reactant | methyl {4-[({3-[3-benzoyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amino)methyl]phenyl}acetate | 0.09 mmol, 0.05 g | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=CC=C(C=C1)CC(=O)OC)C(F)(F)F | C33H25F3N2O3
reactant | LiOH | [Li+].[OH-]
reactant | formic acid | 5 mL | C(=O)O | CH2O2
solvent | acetic anhydride | 1 mL | C(C)(=O)OC(C)=O | C4H6O3
product | (4-{[{3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}(FORMYL)AMINO]METHYL}PHENYL)ACETIC ACID | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N(C=O)CC1=CC=C(C=C1)CC(=O)O)C(F)(F)F | C33H23F3N2O4
